US06472386B1
Synthesis of N,N′-bis[[1-(3,4,5-Trimethoxyphenyl)imidazol-4-yl]methyl]piperazine
4-Chloromethyl-1-(3,4,5-trimethoxyphenyl)imidazole (87 mg) and piperazine (13 mg) were reacted in the same manner in Example 1 to obtain the title compound as a free base.

reactant | 4-Chloromethyl-1-(3,4,5-trimethoxyphenyl)imidazole | 87 mg | ClCC=1N=CN(C1)C1=CC(=C(C(=C1)OC)OC)OC | C13H15ClN2O3
reactant | piperazine | 13 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[[1-(3,4,5-Trimethoxyphenyl)imidazol-4-yl]methyl]piperazine | COC=1C=C(C=C(C1OC)OC)N1C=NC(=C1)CN1CCN(CC1)CC=1N=CN(C1)C1=CC(=C(C(=C1)OC)OC)OC | C30H38N6O6
